US05807863
The intermediate methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate (9,6 g, 23 mmol) is dissolved in dimethylformamide (20 ml) and added at +30° C. to a suspension of NaH (1.3 g, of a 80% suspension in oil, 46 mmol) and N,N-diformylmethylamine (10 ml) in dimethylformamide (40 ml). The mixture is stirred for 2 hours at +45° C. Dimethylsulfate (2,4 ml, 25 mmol) is added at room temperature with cooling and stirring is continued for additional two hours. Dilution with ether, washing with brine, drying and chromatography on silicagel (eluant:ethyl acetate/hexane 3:1) gives methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-3-methoxyacrylate as a colorless oil (4.8 g).

reactant | methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate | 23 mmol, 9,6 g | CC1=NC(=C(C(=N1)C)CC(=O)OC)OC1=NN(C=C1)CC1=C(C=CC=C1Cl)Cl | C19H18Cl2N4O3
reactant | NaH | [H-].[Na+]
reactant | N,N-diformylmethylamine | 10 ml | C(=O)CNCC=O | C4H7NO2
reactant | Dimethylsulfate | 25 mmol, 2,4 ml | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-3-methoxyacrylate | 4.8 g | CC1=NC(=C(C(=N1)C)C(C(=O)OC)=COC)OC1=NN(C=C1)CC1=C(C=CC=C1Cl)Cl | C21H20Cl2N4O4
